US06211215B1
In substantially the same manner as in Reference Example 72, ethyl 2-(2-thienyl)-4-thiazolecarboxylate was reduced with lithium aluminum hydride to give crystals of 2-(2-thienyl)-4-thiazolylmethanol. The yield was 94%. Recrystallization from ethyl acetate-hexane gave colorless needles, mp 54-55° C.

reactant | ethyl 2-(2-thienyl)-4-thiazolecarboxylate | S1C(=CC=C1)C=1SC=C(N1)C(=O)OCC | C10H9NO2S2
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-(2-thienyl)-4-thiazolylmethanol | yield was 94% | S1C(=CC=C1)C=1SC=C(N1)CO | C8H7NOS2
